US08981084B2
(4-(Pyrimidin-5-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 5-(piperazin-1-yl)pyrimidine TFA salt and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (50 mg, yield 32%). 1H NMR (400 MHz, MeOD) δ 8.61 (s, 1H), 8.52 (s, 2H), 8.29-8.26 (dt, J=6.7 Hz, 1.9 Hz, 1H), 8.23 (m, 1H), 7.76-7.71 (m, 2H), 3.99-3.83 (m, 2H), 3.69 (m, 2H), 3.49 (m, 2H), 3.44-3.36 (m, 2H). MS (ESI) m/z: Calculated for C18H15F3N6O2: 404.12. found: 405.2 (M+H)+

reactant | 5-(piperazin-1-yl)pyrimidine TFA salt | OC(=O)C(F)(F)F.N1(CCNCC1)C=1C=NC=NC1
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-(Pyrimidin-5-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 32% | N1=CN=CC(=C1)N1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C18H15F3N6O2
